US04453972
(b) 2,6-Dichloro-4-(2,5-dichloro-4-methylmercaptophenoxy)-pyridine
Quantities of 19.3 gm (0.1 mol) of 2,6-dichloro-4-nitropyridine and 23.1 gm (0.11 mol) of 2,5-dichloro-4-methylmercaptophenol were dissolved in 100 ml of acetone, 13.8 gm (0.1 mol) of K2CO3 were added, and the resulting mixture was stirred for 3 hours under reflux. It was then stirred into 500 ml of water, and the precipitate formed was recovered by suction filtration.

reactant | 2,6-dichloro-4-nitropyridine | 0.1 mol, 19.3 gm | ClC1=NC(=CC(=C1)[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | 2,5-dichloro-4-methylmercaptophenol | 0.11 mol, 23.1 gm | ClC1=C(C=C(C(=C1)SC)Cl)O | C7H6Cl2OS
reactant | K2CO3 | 0.1 mol, 13.8 gm | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 500 ml | O | H2O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2,6-Dichloro-4-(2,5-dichloro-4-methylmercaptophenoxy)-pyridine | ClC1=NC(=CC(=C1)OC1=C(C=C(C(=C1)Cl)SC)Cl)Cl | C12H7Cl4NOS
